US09379413B2
In an autoclave of 100 mL, morpholine (45.0 g, 517 mmol) was made reacted with chloroethyl methyl ether (25.0 g, 265 mmol) at 130 deg C. for 48 hours. Solid salt that was formed was removed by filtration, and residue (filtrate) was subjected to reduced-pressure distillation by using a Vigreux column of 25 cm. Then 1H-NMR measurement of obtained amine is performed, and it was confirmed that chemical shifts, δ (ppm), are 3.53-3.55(m, 4H), 3.33-3.35(m, 2H), 3.17(s, 3H), and 2.36-2.32 (m, 6H), and that N-2-methoxyethylmorpholine was synthesized.

reactant | morpholine | 517 mmol, 45.0 g | N1CCOCC1 | C4H9NO
reactant | chloroethyl methyl ether | 265 mmol, 25.0 g | COCCCl | C3H7ClO
product | N-2-methoxyethylmorpholine | COCCN1CCOCC1 | C7H15NO2
